US04777299
3'-(iso-Butyl)-2',4'-dihydroxyacetophenone
1,3-Dimethoxy-2-(iso-butyl)benzene (11.3 g) was dissolved in acetic acid (250 ml) and 48% hydrobromic acid (150 ml). The resultant solution was heated to reflux for 2 days, cooled, and ether and water added. The ether layer was washed with brine (2×), dried over sodium sulfate, filtered and evaporated to dryness. The concentrate was chromatographed by HPLC (column eluted with a gradient of 1 to 10% ethyl acetate in hexane) to yield 3.87 g of the title product.

reactant | 1,3-Dimethoxy-2-(iso-butyl)benzene | 11.3 g | COC1=C(C(=CC=C1)OC)CC(C)C | C12H18O2
reactant | ether | CCOCC | C4H10O
reactant | water | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 150 ml | Br | BrH
product | 3'-(iso-Butyl)-2',4'-dihydroxyacetophenone | 3.87 g | C(C(C)C)C=1C(=C(C=CC1O)C(C)=O)O | C12H16O3
